US08207174B2
1-(1-(5-(4-fluorophenyl)thieno[2,3-d]pyrimidin-4-yl)piperidin-4-ylamino)-3-(4-(hydroxymethyl)phenoxy)propan-2-ol
Synthesis followed SP6 (iPrOH:DMSO 1:1, 12 h), using 150 μmol (4-(oxiran-2-ylmethoxy)phenyl)methanol and 1-(5-(4-fluorophenyl)thieno[2,3-d]pyrimidin-4-yl)piperidin-4-amine to give the title compound with 29% yield upon purification by prep. HPLC (reversed phase) and subsequent by prep. TLC (1 mm silica gel, PE/CH2Cl2/MeOH 4:6:1).

reactant | (4-(oxiran-2-ylmethoxy)phenyl)methanol | 150 μmol | O1C(C1)COC1=CC=C(C=C1)CO | C10H12O3
reactant | 1-(5-(4-fluorophenyl)thieno[2,3-d]pyrimidin-4-yl)piperidin-4-amine | FC1=CC=C(C=C1)C1=CSC=2N=CN=C(C21)N2CCC(CC2)N | C17H17FN4S
solvent | iPrOH DMSO | CC(C)O.CS(=O)C
product | 1-(1-(5-(4-fluorophenyl)thieno[2,3-d]pyrimidin-4-yl)piperidin-4-ylamino)-3-(4-(hydroxymethyl)phenoxy)propan-2-ol | 29% yield | FC1=CC=C(C=C1)C1=CSC=2N=CN=C(C21)N2CCC(CC2)NCC(COC2=CC=C(C=C2)CO)O | C27H29FN4O3S
